US08017785B2
The halo-substituted pyridine, (e.g., 5-bromo-3-isopropoxypyridine) can be synthesized by two different routes. In one preparation, 3,5-dibromopyridine is heated at 140° C. for 14 hours with 2 molar equivalents of potassium isopropoxide in dry isopropanol in the presence of copper powder (5%, w/w of the 3,5-dibromopyridine) in a sealed glass tube to yield 5-bromo-3-isopropoxypyridine. A second preparation of 5-bromo-3-isopropoxypyridine from 5-bromonicotinic acid can be performed as follows: (i) 5-Bromonicotinic acid is converted to 5-bromonicotinamide by treatment with thionyl chloride, followed by reaction of the intermediate acid chloride with aqueous ammonia. (ii) The resulting 5-bromonicotinamide, previously described by C. V. Greco et al., J. Heteocyclic Chem. 7(4): 761 (1970), is subjected to Hofmann degradation by treatment with sodium hydroxide and a 70% solution of calcium hypochlorite. (iii) The resulting 3-amino-5-bromopyridine, previously described by C. V. Greco et al., J. Heteocyclic Chem. 7(4): 761 (1970), can be converted to 5-bromo-3-isopropoxypyridine by diazotization with isoamyl nitrite under acidic conditions, followed by treatment of the intermediate diazonium salt with isopropanol to yield 5-bromo-3-isopropoxypyridine. The palladium-catalyzed coupling of 5-bromo-3-isopropoxypyridine and (2S)—N-methyl-N-(tert-butoxycarbonyl)-4-penten-2-amine is carried out in acetonitrile-triethylamine (2:1, v,v) using a catalyst consisting of 1 mole % palladium(II) acetate and 4 mole % tri-o-tolylphosphine. The reaction can be carried out by heating the components at 80° C. for 20 hours to yield (2S)-(4E)-N-methyl-N-(tert-butoxycarbonyl)-5-(5-isopropoxy-3-pyridyl)-4-penten-2-amine Removal of the tert-butoxycarbonyl protecting group can be accomplished by treatment with 30 molar equivalents of trifluoroacetic acid in anisole at 0° C. to afford (2S)-(4E)-N-methyl-5-(5-isopropoxy-3-pyridyl)-4-penten-2-amine.

reactant | 5-bromo-3-isopropoxypyridine | BrC=1C=C(C=NC1)OC(C)C | C8H10BrNO
reactant | (2S)—N-methyl-N-(tert-butoxycarbonyl)-4-penten-2-amine | CN([C@@H](C)CC=C)C(=O)OC(C)(C)C | C11H21NO2
reactant | tri-o-tolylphosphine | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
solvent | acetonitrile triethylamine | C(C)#N.C(C)N(CC)CC
catalyst | palladium | [Pd] | Pd
catalyst | palladium(II) acetate | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | (2S)-(4E)-N-methyl-5-(5-isopropoxy-3-pyridyl)-4-penten-2-amine | CN[C@@H](C)C\C=C\C=1C=NC=C(C1)OC(C)C | C14H22N2O
